US06825181B1
Step 2: Synthesis of benzyl (4R)-5-(1-aminoisoquinoline-7-yloxy)-4-t-butoxycarbonylaminopentanoate:
8.81 g (27 mmol) of 1-amino-7-hydroxyisoquinoline monohydrobromide was dissolved in 120 ml of DMF. 14.0 g (41 mmol) of benzyl (4R)-4-t-butoxycarbonylamino-5-chloropentanoate, 11.2 g (81.0 mmol) of potassium carbonate and 9.96 g (27 mmol) of tetrabutylammonium iodide were added to the obtained solution, and they were stirred at 70° C. for 3 days. After the treatment with dichloromethane as the extraction solvent in an ordinary manner, the obtained crude product was purified by the silica gel column chromatography to obtain the title compound.

reactant | 1-amino-7-hydroxyisoquinoline monohydrobromide | 27 mmol, 8.81 g | Br.NC1=NC=CC2=CC=C(C=C12)O
reactant | benzyl (4R)-4-t-butoxycarbonylamino-5-chloropentanoate | 41 mmol, 14.0 g | C(C)(C)(C)OC(=O)N[C@H](CCC(=O)OCC1=CC=CC=C1)CCl | C17H24ClNO4
reactant | potassium carbonate | 81.0 mmol, 11.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium iodide | 27 mmol, 9.96 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | benzyl (4R)-5-(1-aminoisoquinoline-7-yloxy)-4-t-butoxycarbonylaminopentanoate | NC1=NC=CC2=CC=C(C=C12)OC[C@@H](CCC(=O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C | C26H31N3O5
